US03944567
A sample of 11.4 grams of 4,5,6,7-tetrahydrobenzo[b]-thien-4-amine hydrochloride is stirred in 150 ml. of chloroform at about 10°C., and 6.1 ml. of sulfuryl chloride is added dropwise. The mixture is stirred for 3.5 hours at room temperature, and then about 20 ml. of 50% sodium hydroxide solution is added gradually to dissolve the suspended solid. The mixture is then poured into water and extracted with chloroform twice. The extracts are dried, evaporated to dryness, and the residue is distilled to give 7.4 grams of 2-chloro-4,5,6,7-tetrahydrobenzo[b]thien-4-amine, boiling point 94°C. to 98°C./0.5 Torr.

reactant | 4,5,6,7-tetrahydrobenzo[b]-thien-4-amine hydrochloride | 11.4 grams | Cl.S1C2=C(C=C1)C(CCC2)N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-chloro-4,5,6,7-tetrahydrobenzo[b]thien-4-amine | 7.4 grams | ClC1=CC2=C(S1)CCCC2N | C8H10ClNS
